US04360519
2-(3-Hydroxyphenyl)-2,4,6,6-tetramethylmorpholine
6-(3-Methoxyphenyl)-2,2,4,6-tetramethylmorpholine hydrochloride (1.4 g) was heated under reflux with concentrated hydrobromic acid (20 ml) under nitrogen for 3 h. The dark solution was reduced to small volume under reduced pressure, diluted with water and neutralised with ammonium hydroxide. The product was extracted into dichloromethane, dried over magnesium sulphate and evaporated to an oil which crystallised from toluene. The title base was converted to its hydrobromide salt by treatment in isopropyl alcohol with a solution of hydrogen bromide in dry ether affording the title compound as its hydrobromide (600 mg) mp 216°-217° C.

reactant | 6-(3-Methoxyphenyl)-2,2,4,6-tetramethylmorpholine hydrochloride | 1.4 g | Cl.COC=1C=C(C=CC1)C1(OC(CN(C1)C)(C)C)C
reactant | hydrobromic acid | 20 ml | Br | BrH
solvent | water | O | H2O
solvent | ammonium hydroxide | [OH-].[NH4+]
product | 2-(3-Hydroxyphenyl)-2,4,6,6-tetramethylmorpholine | OC=1C=C(C=CC1)C1(CN(CC(O1)(C)C)C)C | C14H21NO2
